US08232312B2
tert.butyl {(3,5-dichloro-phenylsulphonyl)-[1-(pyridin-4-ylcarbamoyl)-2,3-dihydro-1H-indol-5-yl]-amino}-acetate
215 mg tert.butyl [(3,5-dichloro-phenylsulphonyl)-(2,3-dihydro-1H-indol-5-yl)-amino]-acetate are dissolved in 10 ml dichloromethane. For this 75 μl diisopropylethylamine and 1 ml of a 20% solution of phosgene in toluene are added. The mixture is stirred for another 2 hours and then the solvents are eliminated in a nitrogen current. The residue is taken up in 10 ml of tetrahydrofuran. To this is added a solution prepared by the addition of 75 mg 4-aminopyridine to a solution of 30 mg sodium hydride (60% suspension in mineral oil) in 10 ml of tetrahydrofuran and 30 minutes' stirring. The mixture is stirred overnight at ambient temperature and then refluxed for 24 hours. The solvents are eliminated in vacuo and the residue is purified by chromatography on silica gel (cyclohexane/ethyl acetate 10:1 to 1:3).

reactant | tert.butyl [(3,5-dichloro-phenylsulphonyl)-(2,3-dihydro-1H-indol-5-yl)-amino]-acetate | 215 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCNC2=CC1)CC(=O)OC(C)(C)C | C20H22Cl2N2O4S
reactant | diisopropylethylamine | 75 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 4-aminopyridine | 75 mg | NC1=CC=NC=C1 | C5H6N2
reactant | sodium hydride | 30 mg | [H-].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert.butyl {(3,5-dichloro-phenylsulphonyl)-[1-(pyridin-4-ylcarbamoyl)-2,3-dihydro-1H-indol-5-yl]-amino}-acetate | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCN(C2=CC1)C(NC1=CC=NC=C1)=O)CC(=O)OC(C)(C)C | C26H26Cl2N4O5S
